US07863302B2
6-Bromo-benzo[b]thiophene-2-carboxylic acid
A stirred solution of 2-bromo-6-fluorobenzaldehyde (2.3 Kg, 11.33 moles) and mercaptoacetic acid (1.04 Kg, 11.33 mole) is added to a solution of KOH (951 g, 16.99 mol) in dimethylformamide (11.0 L) at room temperature. The reaction mixture is stirred for 1.5 h at 136 to 140° C. Upon completion of the reaction, the reaction mixture is cooled to 10° C. and quenched with concentrated HCl (2.5 L). The mixture is stirred for 1 h at 10° C. and the resulting solid is filtered. The filtered cake is washed with water (2×3 L) and dried under vacuum to afford the title compound (2.2 Kg, 76%) as a yellow solid.

reactant | 2-bromo-6-fluorobenzaldehyde | 11.33 moles, 2.3 Kg | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
reactant | mercaptoacetic acid | 11.33 mole, 1.04 Kg | SCC(=O)O | C2H4O2S
reactant | KOH | 16.99 mol, 951 g | [OH-].[K+]
reactant | dimethylformamide | 11.0 L | CN(C=O)C | C3H7NO
product | 6-Bromo-benzo[b]thiophene-2-carboxylic acid | 2.2 Kg, 76% | BrC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C9H5BrO2S
